* c:\fossee\esim\library\subcircuitlibrary\74ls95b\74ls95b.cir

* u11  net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u1-pad14_ /vcc /q0 ? d_srff
* u21  net-_u19-pad2_ net-_u18-pad3_ net-_u11-pad3_ net-_u1-pad14_ /vcc /q2 ? d_srff
* u26  net-_u24-pad2_ net-_u23-pad3_ net-_u11-pad3_ net-_u1-pad14_ /vcc /q3 ? d_srff
* u6  net-_u3-pad3_ net-_u4-pad3_ net-_u11-pad3_ d_or
* u3  net-_u12-pad2_ /cp1 net-_u3-pad3_ d_and
* u4  /s /cp2 net-_u4-pad3_ d_and
* u8  net-_u10-pad3_ net-_u7-pad3_ net-_u11-pad2_ d_nor
* u7  /ds net-_u12-pad2_ net-_u7-pad3_ d_and
* u10  net-_u10-pad1_ /p0 net-_u10-pad3_ d_and
* u13  net-_u13-pad1_ net-_u12-pad3_ net-_u13-pad3_ d_nor
* u12  /q0 net-_u12-pad2_ net-_u12-pad3_ d_and
* u15  net-_u10-pad1_ /p1 net-_u13-pad1_ d_and
* u18  net-_u18-pad1_ net-_u17-pad3_ net-_u18-pad3_ d_nor
* u17  /q1 net-_u12-pad2_ net-_u17-pad3_ d_and
* u20  net-_u10-pad1_ /p2 net-_u18-pad1_ d_and
* u23  net-_u23-pad1_ net-_u22-pad3_ net-_u23-pad3_ d_nor
* u22  /q2 net-_u12-pad2_ net-_u22-pad3_ d_and
* u25  net-_u10-pad1_ /p3 net-_u23-pad1_ d_and
* u9  net-_u11-pad2_ net-_u11-pad1_ d_inverter
* u14  net-_u13-pad3_ net-_u14-pad2_ d_inverter
* u19  net-_u18-pad3_ net-_u19-pad2_ d_inverter
* u24  net-_u23-pad3_ net-_u24-pad2_ d_inverter
* u2  /s net-_u12-pad2_ d_inverter
* u5  net-_u12-pad2_ net-_u10-pad1_ d_inverter
* u1  /ds /p0 /p1 /p2 /p3 /s /vcc /cp2 /cp1 /q3 /q2 /q1 /q0 net-_u1-pad14_ port
* u16  net-_u14-pad2_ net-_u13-pad3_ net-_u11-pad3_ net-_u1-pad14_ /vcc /q1 ? d_srff
a1 net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u1-pad14_ /vcc /q0 ? u11
a2 net-_u19-pad2_ net-_u18-pad3_ net-_u11-pad3_ net-_u1-pad14_ /vcc /q2 ? u21
a3 net-_u24-pad2_ net-_u23-pad3_ net-_u11-pad3_ net-_u1-pad14_ /vcc /q3 ? u26
a4 [net-_u3-pad3_ net-_u4-pad3_ ] net-_u11-pad3_ u6
a5 [net-_u12-pad2_ /cp1 ] net-_u3-pad3_ u3
a6 [/s /cp2 ] net-_u4-pad3_ u4
a7 [net-_u10-pad3_ net-_u7-pad3_ ] net-_u11-pad2_ u8
a8 [/ds net-_u12-pad2_ ] net-_u7-pad3_ u7
a9 [net-_u10-pad1_ /p0 ] net-_u10-pad3_ u10
a10 [net-_u13-pad1_ net-_u12-pad3_ ] net-_u13-pad3_ u13
a11 [/q0 net-_u12-pad2_ ] net-_u12-pad3_ u12
a12 [net-_u10-pad1_ /p1 ] net-_u13-pad1_ u15
a13 [net-_u18-pad1_ net-_u17-pad3_ ] net-_u18-pad3_ u18
a14 [/q1 net-_u12-pad2_ ] net-_u17-pad3_ u17
a15 [net-_u10-pad1_ /p2 ] net-_u18-pad1_ u20
a16 [net-_u23-pad1_ net-_u22-pad3_ ] net-_u23-pad3_ u23
a17 [/q2 net-_u12-pad2_ ] net-_u22-pad3_ u22
a18 [net-_u10-pad1_ /p3 ] net-_u23-pad1_ u25
a19 net-_u11-pad2_ net-_u11-pad1_ u9
a20 net-_u13-pad3_ net-_u14-pad2_ u14
a21 net-_u18-pad3_ net-_u19-pad2_ u19
a22 net-_u23-pad3_ net-_u24-pad2_ u24
a23 /s net-_u12-pad2_ u2
a24 net-_u12-pad2_ net-_u10-pad1_ u5
a25 net-_u14-pad2_ net-_u13-pad3_ net-_u11-pad3_ net-_u1-pad14_ /vcc /q1 ? u16
* Schematic Name:                             d_srff, NgSpice Name: d_srff
.model u11 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_srff, NgSpice Name: d_srff
.model u21 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_srff, NgSpice Name: d_srff
.model u26 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u6 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u3 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u4 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u8 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u10 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u13 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u12 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u15 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u18 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u17 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u20 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u23 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u22 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u25 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_srff, NgSpice Name: d_srff
.model u16 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
